US04638000
In 30 ml of ethanol is dissolved 2.1 g of tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5acetate, and 0.4 g of acetic acid, 2.5 g of ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-oxovalerate and 10 g of Molecular sieve 3A are added to the solution. The mixture is stirred at room temperature for 20 minutes, and a solution of 0.4 g of sodium cyanoborohydride in 50 ml of ethanol is added dropwise to the mixture at room temperature with stirring over the period of 3 hours. The reaction solution is allowed to stand at room temperature overnight, and concentrated under reduced pressure, and 300 ml of water and 300 ml of ethyl acetate are added to the residue, followed by shaking. The insoluble matter is removed by filtration, and the ethyl acetate layer is dried over anhydrous magnesium sulfate and ccncentrated under reduced pressure. Ethyl acetate (20 ml) and 2 g of oxalic acid are added to the residue, and the mixture is shaken thoroughly and admixed with 300 ml of petroleum ether, followed by allowing the mixture to stand. The solution portion is removed by decantation, and 100 ml of water and 200 ml of ethyl acetate are added to the precipitate portion, followed by adding excess sodium hydrogencarbonate to conduct neutralization. The ethyl acetate layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give an oily material. This product is separated and purified by silica-gel column chromatography (hexane:ethyl acetate=2:1) to give from the first fraction 0.4 g of tert-butyl 3(R)-[4-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylbutyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as a colorless oily material.

reactant | tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5acetate | 2.1 g | N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O3S
reactant | acetic acid | 0.4 g | C(C)(=O)O | C2H4O2
reactant | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-oxovalerate | 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC(C(=O)OCC)=O | C20H27NO5
reactant | sodium cyanoborohydride | 0.4 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl 3(R)-[4-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylbutyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC[C@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C35H47N3O7S
